US05929117
3-(4-Biphenylyl)-3-(3,4-dimethoxyphenyl)acrylonitrile was prepared analogously to methyl 3,3-bis-(3',4'-dimethoxyphenyl)acrylate using 3,4-dimethoxy-4'-phenylbenzophenone (2.33 g, 7.32 mmol), diethylcyanomethylphosphonate (1.5 mL, 8.1 mmol) and lithium hexamethyldisilazide (8.1 mL, 8.1 mmol, 1M) with a reaction time of 22 hours. The crude product was purified by chromatography (silica gel, 1% ethyl acetate/methylene chloride) to afford 1.76 g (70%) of a mixture of the E and Z isomers as a white solid: mp 132.0-134° C.; 1H NMR (CDCl3) δ 7.70-7.39 (m, 18H), 7.10-6.80 (m, 6H), 5.69 (s, 1H), 5.68 (s, 1H), 3.95 (s, 6H), 3.93 (s, 3H), 3.89 (s, 3H), 3.85 (s, 3H); 13C NMR (CDCl3) δ 162.2, 151.1, 148.8, 148.6, 143.0, 142.6, 140.0, 137.9, 135.9, 131.4, 130.1, 129.3, 129.1, 128.8, 128.8, 127.9, 127.1, 127.0, 126.0, 126.9, 123.1, 122.2, 118.3, 118.2, 112.6, 111.1, 110.7, 93.2, 92.9, 56.0, 55.9, 55.8; Anal. Calcd for C23H19NO2. Theoretical: C, 80.92; H, 5.61; N, 4.10. Found: C, 80.55; H, 5.80; N, 3.95.

reactant | methyl 3,3-bis-(3',4'-dimethoxyphenyl)acrylate | COC=1C=C(C=CC1OC)C(=CC(=O)OC)C1=CC(=C(C=C1)OC)OC | C20H22O6
reactant | 3,4-dimethoxy-4'-phenylbenzophenone | 7.32 mmol, 2.33 g | COC=1C=C(C(=O)C2=CC=C(C=C2)C2=CC=CC=C2)C=CC1OC | C21H18O3
reactant | diethylcyanomethylphosphonate | 8.1 mmol, 1.5 mL | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium hexamethyldisilazide | 8.1 mmol, 1M, 8.1 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
product | 3-(4-Biphenylyl)-3-(3,4-dimethoxyphenyl)acrylonitrile | C1(=CC=C(C=C1)C(=CC#N)C1=CC(=C(C=C1)OC)OC)C1=CC=CC=C1 | C23H19NO2
